US05055584
2,5-Bis(1,2-di(butoxycarbonyl)ethylthio)-1,3,4-thiadiazole
2,5-Dimercapto-1,3,4-thiadiazole (50.09 g, 0.33 mol) and dibutyl maleate (157.0 g, 0.69 mol) were charged in a reaction flask and heated to 55° C. for 4 hours. The reaction product was filtered warm using filter aid.

reactant | 2,5-Dimercapto-1,3,4-thiadiazole | 0.33 mol, 50.09 g | SC=1SC(=NN1)S | C2H2N2S3
reactant | dibutyl maleate | 0.69 mol, 157.0 g | C(\C=C/C(=O)OCCCC)(=O)OCCCC | C12H20O4
product | 2,5-Bis(1,2-di(butoxycarbonyl)ethylthio)-1,3,4-thiadiazole | C(CCC)OC(=O)C(CC(=O)OCCCC)SC=1SC(=NN1)SC(CC(=O)OCCCC)C(=O)OCCCC | C26H42N2O8S3
